US07846925B2
Step II: Benzo[1,4]oxazine-4,6-dicarboxylicacid 4-tert-butyl ester 6-methyl ester
2,3-Dibromo-2,3-dihydro-benzo[1,4]oxazine-4,6-dicarboxylic acid 4-tert-butyl ester 6-methyl ester (767 mg, 1.7 mmol) from proceeding step was stirred in acetone (14 ml) at RT for 2 h with NaI (1.27 g, 8.5 mmol). The solvent was removed, EtOAc, water and 1 M sodium thiosulfate were added. After separating phases the organic layer was washed with brine. The solvent was concentrated and the crude was purified on silica gel using CH/EtOAc 7:3 to obtain a colorless oil (456 mg, 92%).

reactant | 2,3-Dibromo-2,3-dihydro-benzo[1,4]oxazine-4,6-dicarboxylic acid 4-tert-butyl ester 6-methyl ester | 1.7 mmol, 767 mg | COC(=O)C=1C=CC2=C(N(C(C(O2)Br)Br)C(=O)OC(C)(C)C)C1 | C15H17Br2NO5
reactant | NaI | 8.5 mmol, 1.27 g | [Na+].[I-]
solvent | acetone | 14 ml | CC(=O)C | C3H6O
product | Benzo[1,4]oxazine-4,6-dicarboxylicacid 4-tert-butyl ester 6-methyl ester | 456 mg, 92% | COC(=O)C=1C=CC2=C(N(C=CO2)C(=O)OC(C)(C)C)C1 | C15H17NO5
